US04175186
The compound of Example I is prepared in the following manner: To a magnetically stirred solution of 16.2 g (60 mmoles) 2,6-dinitro-4-trifluoromethylchlorobenzene in 60 ml. dimethylsulfoxide was added dropwise a solution of 10.74 g (60 mmoles) sodium dimethyldithiocarbamic acid. The reaction is mildly exothermic and accompanied by evolution of oxides of nitrogen. After allowing the reaction mixture to stir for 3 hours, 450 ml. water and 225 ml. chloroform are added and, after shaking well in an extraction funnel, the chloroform extract was withdrawn and the aqueous phase similarly extracted with two more 220 ml. portions of chloroform. The combined chloroform extract was washed thrice with 750 ml. portions of water, and dried over anhy. Na2SO4. After removing the solvent on a rotary evaporator, the residue was chromatographed over 180 g Silica-Gel. Elution with hexane-benzene (1:1) yielded 7.3 g (43.3%) 4-nitro-6-trifluoromethyl-1,3-benzodithiole-2-one, m.p. 103°-107° C. One recrystallization from ethanol yielded product, m.p. 111°-112° C.

reactant | 2,6-dinitro-4-trifluoromethylchlorobenzene | 60 mmoles, 16.2 g | [N+](=O)([O-])C1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])Cl | C7H2ClF3N2O4
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | sodium dimethyldithiocarbamic acid | 60 mmoles, 10.74 g | CN(C(S)=S)C.[Na]
reactant | water | O | H2O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-nitro-6-trifluoromethyl-1,3-benzodithiole-2-one | 7.3 g, 43.3% | [N+](=O)([O-])C1=CC(=CC=2SC(SC21)=O)C(F)(F)F | C8H2F3NO3S2
